US05244889
(3R)-6-Methylidene-5-oxo-1-thia-4-azacyclotridecane-3-carboxylic acid (0.16 g), 0.62 mmol) is dissolved in ethanol (5 ml) and hydrogen chloride gas is bubbled through the solution for 5 minutes. The solution is stirred overnight at room temperature and the solvent is evaporated to give ethyl (3R)-6-methylidene-5-oxo-1-thia-4-azacyclotridecane-3-carboxylate, m.p. 146°-147° C.

reactant | (3R)-6-Methylidene-5-oxo-1-thia-4-azacyclotridecane-3-carboxylic acid | 0.16 g | C=C1C(N[C@@H](CSCCCCCCC1)C(=O)O)=O | C13H21NO3S
reactant | ethanol | 5 ml | C(C)O | C2H6O
product | ethyl (3R)-6-methylidene-5-oxo-1-thia-4-azacyclotridecane-3-carboxylate | C=C1C(N[C@@H](CSCCCCCCC1)C(=O)OCC)=O | C15H25NO3S
